US04976773
4-Bromochlorobenzene (3.8 g), hydroquinone monomethyl ether (3.1 g) and potassium hydroxide (1.5 g) and copper powder (0.1 g) were mixed and the reaction was carried out at 160° C. to 200° C. for 3 hours. After cooling to room temperature, the reaction mixture was extracted with benzene (100 ml) and washed with 1N sodium hydroxide, water, and saturated aqueous sodium chloride. After drying over anhydrous magnesium sulfate, the solvent was evaporated under a reduced pressure and the residue was purified by medium pressure column chromatography using silica gel, to obtain 4-(4-chlorophenoxy)phenol methyl ether (2.5 g).

reactant | 4-Bromochlorobenzene | 3.8 g | BrC1=CC=C(C=C1)Cl | C6H4BrCl
reactant | hydroquinone monomethyl ether | 3.1 g | COC1=CC=C(O)C=C1 | C7H8O2
reactant | potassium hydroxide | 1.5 g | [OH-].[K+]
catalyst | copper | 0.1 g | [Cu] | Cu
product | 4-(4-chlorophenoxy)phenol methyl ether | 2.5 g | COC1=CC=C(C=C1)OC1=CC=C(C=C1)Cl | C13H11ClO2
